US03952104
A solution of 2.72 parts of 6,8-di-t-butyl-2-methyl-4-oxo-4H-1-benzopyran and 4.44 parts of selenium dioxide in a mixture of 60 parts of water and 250 parts by volume of dioxan was heated under gentle reflux for 12 hours. After cooling, the solution was filtered and the solvents were evaporated from the filtrate. The residue thus produced was dissolved in 250 parts by volume of chloroform and the resulting solution was extracted with 3 portions of 100 parts of a solution containing 5 parts of sodium bicarbonate in 100 parts of water. The combined aqueous washings were acidified with concentrated hydrochloric acid to give a solid which was crystallised from aqueous ethanol to give 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, m.p. 230°-232° C.

reactant | 6,8-di-t-butyl-2-methyl-4-oxo-4H-1-benzopyran | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C)=O)C1)C(C)(C)C | C18H24O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | water | O | H2O
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1)C(C)(C)C | C18H22O4
